US04921855
To a mixture of N-t-butoxycarbonyl-N-methyl-β-alanine (6.097 g) and triethylamine (4.18 ml) in ethyl acetate (60 ml) was added 2-bromoacetophenone (5.972 g) portionwise at 0°-5° C. After being stirred over night at ambient temperature, the solvent was evaporated and the resulting residue was dissolved in ethyl acetate (200 ml). The solution was washed with 0.5N hydrochloric acid (200 ml), water (200 ml) aqueous sodium bicarbonate (200 ml), water (200 ml) and brine (200 ml) successively, and dried over magnesium sulfate. Evaporation of the solvent gave N-t-butoxycarbonyl-N-methyl-β-alanine phenacyl ester (8.54 g) as an oil.

reactant | N-t-butoxycarbonyl-N-methyl-β-alanine | 6.097 g | C(C)(C)(C)OC(=O)N(CCC(=O)O)C | C9H17NO4
reactant | triethylamine | 4.18 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromoacetophenone | 5.972 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | N-t-butoxycarbonyl-N-methyl-β-alanine phenacyl ester | 8.54 g | C(C(=O)C1=CC=CC=C1)OC(CCN(C)C(=O)OC(C)(C)C)=O | C17H23NO5
